US04005151
40 Grams of 2,4,5-trichloroaniline and 200 g of 75% aqueous sulfuric acid solution were charged together with ceramic balls into a ceramic ball mill having one liter capacity. A suspension of fine particles of 2,4,5-trichloroaniline sulfate was prepared by a method similar to that described in Example 5. The suspension was transferred into a beaker having one liter capacity. The ceramic ball mill used was washed with 76 g of 75% aqueous sulfuric acid solution and the washings were also poured into the beaker. Diazotization of 2,4,5-trichloroaniline sulfate in the form of suspension of fine particles was carried out by a method similar to that described in Example 5 except that 15.5 g of sodium nitrite powder was added in 25 minutes. The diazotized solution was then hydrolyzed by a method similar to that described in Example 5. 33.0 g Grams of 2,4,5-trichlorophenol (115° - 120° C/10 mmHg) was obtained. The yield was found to be 82.0%.

reactant | 2,4,5-trichloroaniline | ClC1=C(N)C=C(C(=C1)Cl)Cl | C6H4Cl3N
reactant | sulfuric acid | 200 g | S(O)(O)(=O)=O | H2O4S
reactant | 2,4,5-trichloroaniline sulfate | S(=O)(=O)(O)O.ClC1=C(N)C=C(C(=C1)Cl)Cl
product | 2,4,5-trichlorophenol | ClC1=C(C=C(C(=C1)Cl)Cl)O | C6H3Cl3O
